US09428499B2
Step a: Synthesis of N-cyclopropyl-2-(3-nitrophenyl)acetamide
To a stirred solution of 2-(3-nitrophenyl)acetic acid (2.5 g, 13.80 mmol) in DMF (20 ml) was added HBTU (4.19 g, 16.56 mmol), N,N-diisopropyl ethylamine (4.82 ml, 27.6 mmol) followed by addition of cyclopropylamine (1.946 ml, 27.6 mmol) at room temperature under nitrogen atmosphere. Reaction mixture was stirred at room temperature for 16 hrs, the reaction mixture was diluted with water (80.0 mL) and extracted with ethyl acetate (20.0 ml×3). Combined organic layers were washed with cold water (20.0 ml) and brine (10.0 ml); dried over sodium sulphate. The solvent was evaporated under vacuum to give the crude compound which was purified by column chromatography to afford titled compound (2.41 gm).

reactant | 2-(3-nitrophenyl)acetic acid | 13.80 mmol, 2.5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | HBTU | 16.56 mmol, 4.19 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropyl ethylamine | 27.6 mmol, 4.82 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopropylamine | 27.6 mmol, 1.946 ml | C1(CC1)N | C3H7N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 80.0 mL | O | H2O
product | N-cyclopropyl-2-(3-nitrophenyl)acetamide | 2.41 gm | C1(CC1)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H12N2O3
